US07932246B2
Ethyl 2-[6-(aminomethyl)-3-azabicyclo[3.1.0]hex-3-yl]pyrimidine-5-carboxylate
Ethyl 2-(6-{[(tert-butoxycarbonyl)amino]methyl}-3-azabicyclo[3.1.0]hex-3-yl)pyrimidine-5-carboxylate (1.7 g, 4.7 mmol) was stirred in DCM (20 ml) at r.t. under N2. 4M HCl in dioxane (2.35 ml, 9.4 mmol) was added, immediately causing a solid to precipitate. The reaction was left to stir for 30 min and then the solvent was removed in vacuo. The residue was dissolved in DCM (100 ml) and washed with sat. aq. NaHCO3 (100 ml). The organic layer was then dried (Na2SO4) and the solvent removed in vacuo to give the title compound as an orange solid (1.2 g, 97%). LCMS purity 97%, m/z 263 [M+H]+, 1H NMR (300 MHz, d6-DMSO) δ: 0.64 (1H, m), 1.29 (3H, t, J=7.2 Hz), 1.58 (2H, m), 3.33 (4H, m), 3.55 (2H, d, J=11.7 Hz), 3.82 (2H, d, J=11.7 Hz), 4.26 (2H, q, J=7.2 Hz), 8.76 (2H, s).

reactant | Ethyl 2-(6-{[(tert-butoxycarbonyl)amino]methyl}-3-azabicyclo[3.1.0]hex-3-yl)pyrimidine-5-carboxylate | 4.7 mmol, 1.7 g | C(C)(C)(C)OC(=O)NCC1C2CN(CC12)C1=NC=C(C=N1)C(=O)OCC | C18H26N4O4
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 9.4 mmol, 2.35 ml | O1CCOCC1 | C4H8O2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 2-[6-(aminomethyl)-3-azabicyclo[3.1.0]hex-3-yl]pyrimidine-5-carboxylate | 1.2 g, 97% | NCC1C2CN(CC12)C1=NC=C(C=N1)C(=O)OCC | C13H18N4O2
